US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 3,4-difluorobenzaldehyde in an analogous manner to that described in Example 1 gave 9-(3,4-difluorophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from absolute ethanol/water gave a pale yellow crystalline solid of melting point 270° C. (decomposition).

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
product | 9-(3,4-difluorophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | FC=1C=C(C=CC1F)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O | C23H25F2NO2
